US08008307B2
Step a: tert-Butyl [(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]carbamate
(1R,2S)-1-Aminoindan-2-ol (1.83 g, 12.3 mmol) was dissolved in DCM (70.0 mL) and TEA (3.42 mL, 24.5 mmol) was added. Di-tert-butyldicarbonate (2.81 g, 12.9 mmol) was added and the reaction mixture was stirred for 5 h. The solution was concentrated in vacuo and purified via silica gel chromatography eluting with a gradient of 0 to 100% EtOAc in hexanes to afford the title compound (3.12 g, 100%). LC/MS: Rt=1.55 min, ES+ 250. (AA standard).

reactant | (1R,2S)-1-Aminoindan-2-ol | 12.3 mmol, 1.83 g | N[C@H]1[C@H](CC2=CC=CC=C12)O | C9H11NO
reactant | Di-tert-butyldicarbonate | 12.9 mmol, 2.81 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 70.0 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]carbamate | 3.12 g, 100% | O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC(OC(C)(C)C)=O | C14H19NO3
